US04297364
α-(4-chlorophenyl)-α-imidazol-1-yl-acetic acid-diisopropyl amide
While stirring, a solution of 4.5 g of imidazole in 30 ml of dimethylformamide is dripped into a suspension of 1.3 g of sodium hydride in 30 ml of dimethylformamide. When no more gas evolves, a solution of 13.6 g of α-chloro-α-(4-chlorophenyl)-acetic acid-diisopropyl amide (see d)) in 100 ml of dimethylformamide is dripped in and the mixture is stirred overnight at room temperature. The oil which remains after the solvent has been evaporated off is taken up in 100 ml of dichloromethane and shaken 5 times, each time with 100 ml of 5% strength sodium chloride solution. The organic phase is then concentrated and chromatographed on silica gel (25×6 cm) using dichloromethane/acetone (9:1). After 2 l of first runnings have been separated off, the product fractions are obtained from which, after concentration and trituration with 10 ml of diisopropyl ether, 8.9 g of colorless crystals (m.p.: 112° C.) are isolated.

reactant | imidazole | 4.5 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | α-chloro-α-(4-chlorophenyl)-acetic acid-diisopropyl amide | 13.6 g | C(C)(C)N(C(C(C1=CC=C(C=C1)Cl)Cl)=O)C(C)C | C14H19Cl2NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | α-(4-chlorophenyl)-α-imidazol-1-yl-acetic acid-diisopropyl amide | C(C)(C)N(C(C(N1C=NC=C1)C1=CC=C(C=C1)Cl)=O)C(C)C | C17H22ClN3O
